US07737295B2
Step A: [3,5-Bis(trifluoromethyl)benzyl](2-bromo-5-fluorobenzyl)amine
To a solution of 2-bromo-5-fluoro benzyl bromide (0.5 g, 1.86 mmol) and 3,5-bis(trifluoromethyl)benzylamine (0.45 g, 1.86 mmol) in methylene chloride (10 ml) at 0° C., triethyl amine (0.39 ml, 2.80 mmol) was added. The solution was slowly warmed to room temperature and stirred for 18 h. The solvent was removed under reduced pressure. The title compound was obtained by flash column chromatography using EtOAc/hexane (2:8) as the eluant. 1H NMR (CDCl3, 500 MHz) δ 7.88 (s, 2H), 7.80 (s, 1H), 7.53 (dd, J=8.8, 5.3 Hz, 1H), 7.18 (dd, J=9, 3.3 Hz, 1H), 6.91 (dt, J=8.5, 3.3 Hz, 1H), 3.98 (s, 2H), 3.90 (s, 2H).

reactant | 2-bromo-5-fluoro benzyl bromide | 1.86 mmol, 0.5 g | BrC1=C(CBr)C=C(C=C1)F | C7H5Br2F
reactant | 3,5-bis(trifluoromethyl)benzylamine | 1.86 mmol, 0.45 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | triethyl amine | 2.80 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | [3,5-Bis(trifluoromethyl)benzyl](2-bromo-5-fluorobenzyl)amine | FC(C=1C=C(CNCC2=C(C=CC(=C2)F)Br)C=C(C1)C(F)(F)F)(F)F | C16H11BrF7N
